US07268230B2
Adding boron tribromide in methylene chloride to a solution of 5-methoxy-7-azaindole in methylene chloride cooled at about −30° C. Leaving the mixture to warm up to ambient temperature and stirring it for a period of time, for example overnight. Pouring the mixture onto ice and water and adjusting the pH of the aqueous phase to about 6. Separating the organic phase and further extracting the aqueous phase with ethyl acetate. Combining the organic phases washing them with brine, drying them, for example over magnesium sulphate, and then evaporating them. The residue may then be purified, for example by column chromatography eluting with increasingly polar mixtures of methylene chloride and methanol to give 5-hydroxy-7-azaindole.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 5-methoxy-7-azaindole | COC=1C=C2C=CNC2=NC1 | C8H8N2O
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-7-azaindole | OC=1C=C2C=CNC2=NC1 | C7H6N2O
